US04242519
Methyl α-methylthio-α-(3-chloro-4-phthalimidophenyl)propionate was suspended in 7 ml of methanol, and 97 mg of hydrazine hydrate was added. The mixture was stirred at room temperature, and then heated under reflux for 1 hour. The mixture was concentrated under reduced pressure, and an aqueous solution of ammonium chloride and methylene chloride were added. The organic layer was separated, and dried over anhydrous sodium sulfate. Concentration under reduced pressure yielded 231 mg of methyl α-methylthio-α-(3-chloro-4-aminophenyl)propionate as a pale yellow oil. Yield 92%.

reactant | Methyl α-methylthio-α-(3-chloro-4-phthalimidophenyl)propionate | CSC(C(=O)OC)(C)C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)Cl | C19H16ClNO4S
reactant | hydrazine hydrate | 97 mg | O.NN
solvent | methanol | 7 ml | CO | CH4O
product | methyl α-methylthio-α-(3-chloro-4-aminophenyl)propionate | 231 mg, Yield 92% | CSC(C(=O)OC)(C)C1=CC(=C(C=C1)N)Cl | C11H14ClNO2S
